US06242452B1
A solution of 6-amino-1,3-diphenyluracil (10.0 g, 35.8 mmol) in dimethylformamide (100 mL) was cooled in an ice bath and phosphorus oxychloride (3.7 mL, 39.4 mmol) was dropped thereinto using a dropping funnel. The reaction mixture was stirred at room temperature for two hours and the reaction was stopped by adding 50 mL of water thereto. The pH was adjusted to 10 by a 1N solution of potassium hydroxide and stirring was carried out at room temperature for one additional hour. Crude crystals separated out therefrom were filtered and, after washing with 100 mL of water, the crude crystals were filtered. The resulting crude crystals were further recrystallized from hexane and ethyl acetate to give 6-amino-5-formyl-1,3-diphenyluracil (2.2 g) in a 40% yield.

reactant | 6-amino-1,3-diphenyluracil | 35.8 mmol, 10.0 g | NC1=CC(N(C(N1C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C16H13N3O2
reactant | phosphorus oxychloride | 39.4 mmol, 3.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 50 mL | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-amino-5-formyl-1,3-diphenyluracil | 2.2 g, 40% yield | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C1=CC=CC=C1)=O)C=O | C17H13N3O3
